US04000143
2'-[2-(1-Methyl-2-piperidyl)ethyl]-cinnamanilide
Cinnamoyl chloride (6.0 g., 0.036 mole) is added to a solution of 2-(o-aminophenethyl)-1-methylpiperidine (7.8 g., 0.036 mole) in 100 ml. of pyridine in one portion with vigorous stirring. Stirring is continued for 3 hours and the pyridine solution is then concentrated in vacuo. The resulting residue is taken up in 150 ml. of water and made basic with 40% sodium hydroxide. The basified solution is extracted with several 200 ml. portions of ether, which are combined, washed with water, dried over magnesium sulfate and the ether solvent evaporated. The residue thus obtained crystallizes and is further purified by crystallizing from isopropyl ether providing 8.7 g. (70% yield) of analytically pure 2'-[2-(1-methyl-2-piperidyl)ethyl]cinnamanilide melting at 101.5° -103.5° C. (corr.).

reactant | Cinnamoyl chloride | 0.036 mole, 6.0 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | 2-(o-aminophenethyl)-1-methylpiperidine | 0.036 mole, 7.8 g | NC1=C(CCC2N(CCCC2)C)C=CC=C1 | C14H22N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2'-[2-(1-Methyl-2-piperidyl)ethyl]-cinnamanilide | 70% yield | CN1C(CCCC1)CCC1=C(NC(C=CC2=CC=CC=C2)=O)C=CC=C1 | C23H28N2O
